US05420128
6-(3-bromo-4-methoxyphenyl)-7-hydroxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
To a 2-ml nitrobenzene suspension of 420 mg of 7-hydroxy-6-(4-methoxyphenyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine, 0.1 ml of bromine was added and stirred for 1 hour at room temperature, and water and ether were added, and the precipitate was filtered. It was washed with water, methanol, ethyl acetate and ether, dried, and the title compound was obtained (270 mg, 54%).

reactant | nitrobenzene | 2-ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 7-hydroxy-6-(4-methoxyphenyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | 420 mg | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)C2=CC=C(C=C2)OC | C25H19N3O2S
reactant | bromine | 0.1 ml | BrBr | Br2
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 6-(3-bromo-4-methoxyphenyl)-7-hydroxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=C(C=CC1OC)C=1C=NC=2N(C1O)N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2 | C25H18BrN3O2S
